US05728835
3-Acetylamino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(phenyl)benzamide
Using 3-amino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(phenyl)benzamide (126.4 mg, 0.28 mmol) and acetic anhydride (0.03 ml, 0.32 mmol), the procedure of Inventive Example 94 was repeated to obtain 101.1 mg (73.1%) of the title compound in a colorless powder form.

reactant | 3-amino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(phenyl)benzamide | 0.28 mmol, 126.4 mg | NC=1C=C(C(=O)N(C2=CC=CC=C2)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=CC1 | C27H28FN3O2
reactant | acetic anhydride | 0.32 mmol, 0.03 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-Acetylamino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(phenyl)benzamide | 101.1 mg, 73.1% | C(C)(=O)NC=1C=C(C(=O)N(C2=CC=CC=C2)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=CC1 | C29H30FN3O3
